US06528503B2
To a solution of diethyl zinc (31 mL of a 1.0 M solution in hexane, 31 mmol) in dry dichloromethane (100 mL) at 0° C. under an inert atmosphere was added TFA (2.4 mL, 31 mmol) in dichloromethane (5 mL) dropwise over a period of 30 min. To this suspension was added diiodomethane (2.5 mL, 31 mmol) in dichloromethane (5 mL) dropwise over a period of 10 min. The resulting solution was stirred at 0° C. for 30 min, at which time ethyl 4-methyl-4-pentenoate (2.0 g, 14 mmol) was added. The mixture was stirred at 0° C. for 30 min and then at ambient temperature for 18 h. The reaction was quenched by addition of saturated aqueous ammonium chloride (50 mL). The organic layer was separated and washed with water (50 mL), dried (MgSO4), filtered, and the solvents were removed under reduced pressure. The residue was purified by flash column chromatography using 5% EtOAc-hexanes as eluant to give ethyl 3-(1-methyl-cyclopropyl)propanoate as a colorless liquid. TLC Rf=0.5 (5% EtOAc-hexanes); HPLC RT=3.43 min (Method A); 1H NMR 400 MHz, CDCl3, 4.12 ppm (q, J=8 Hz, 2H), 2.38 ppm (t, J=8 Hz, 2H), 1.57 ppm (t, J=8 Hz, 2H), 1.26 ppm, (t, J=8 Hz, 3H), 1.02 ppm (s, 3H), 0.28 ppm (m, 2H), 0.25 ppm (m, 2H)

reactant | diethyl zinc | C(C)[Zn]CC
reactant | TFA | 31 mmol, 2.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diiodomethane | 31 mmol, 2.5 mL | ICI | CH2I2
reactant | ethyl 4-methyl-4-pentenoate | 14 mmol, 2.0 g | CC(CCC(=O)OCC)=C | C8H14O2
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 3-(1-methyl-cyclopropyl)propanoate | CC1(CC1)CCC(=O)OCC | C9H16O2
